US07432284B2
A solution of 3a-butyl-6-chloro-8-fluoro-7-methoxy-3,3a,4,5-tetrahydro-cyclopenta[a]naphthalen-2-one (22 mg, 0.07 mmol) in DMF (0.12 mL) was treated with N-bromosuccinimide (12 mg, 0.07 mmol) at room temperature under N2 for 100 minutes, after which very little reaction had occurred. The reaction was thus heated to 60° C. for 50 minutes, then diluted with DMF (0.5 mL). Lithium chloride (29 mg, 0.68 mmol) was added and the reaction was heated to 100° C. After stirring at 100° C. for 1.5 hours the reaction was heated at 120° C. for 50 minutes. The reaction was cooled to room temperature and then partitioned between EtOAc/H2O. The organic portion was washed several times with water, then with brine, dried over MgSO4, filtered and then concentrated under vacuum. The crude material was purified by preparative layer chromatography on a 0.05×20×20 cm silica gel GF plate (Analtech, Newark, Del.), developing with 2.5% MeOH in CH2Cl2. The low Rf band was eluted with 5% MeOH in CH2Cl2 and concentrated under vacuum to give 1-bromo-3a-butyl-6-chloro-8-fluoro-7-hydroxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one as an off-white film.

reactant | 3a-butyl-6-chloro-8-fluoro-7-methoxy-3,3a,4,5-tetrahydro-cyclopenta[a]naphthalen-2-one | 0.07 mmol, 22 mg | C(CCC)C12C(C3=CC(=C(C(=C3CC1)Cl)OC)F)=CC(C2)=O | C18H20ClFO2
reactant | N-bromosuccinimide | 0.07 mmol, 12 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Lithium chloride | 0.68 mmol, 29 mg | [Cl-].[Li+]
solvent | DMF | 0.12 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-bromo-3a-butyl-6-chloro-8-fluoro-7-hydroxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one | BrC=1C(CC2(C1C1=CC(=C(C(=C1CC2)Cl)O)F)CCCC)=O | C17H17BrClFO2
